US07622494B2
(1S)-6-Methyl-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared by separation of diastereomeric 6-methyl-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine by SFC (Berger Amino, 10% methanol, 1500 psi, 40° C., 2 mL/min, retention time: 10.0 min.) The oil obtained was converted to the HCl salt to give a white solid. [α]25=−20.0 (c 0.20, MeOH); 1H-NMR (DMSO-d6): δ 7.58 (d, J=7.6 Hz, 2H), 7.55-7.46 (m, 3H), 7.26 (d, J=8.0 Hz, 1H), 7.26 (m, 1H), 7.01 (d, J=8.8 Hz, 1H), 4.74 (q, J=7.2 Hz, 1H), 4.43 (t, J=4.8 Hz, 1H), 2.82 (dt, J=16.4 Hz, J=4.0 Hz, 1H), 2.68 (dt, J=16.4 Hz, J=4.8 Hz, 1H), 2.40 (s, 3H), 2.32-2.20 (m, 1H), 2.18-2.00 (m, 2H), 1.98-1.88 (m, 1H), 1.75 (d, J=6.8 Hz, 3H); MS m/z 184 (M−121); Anal. Calcd. For C21H25BrN2Cl: C, 73.99; H, 7.39; N, 8.22. Found: C, 74.02; H, 7.30; N, 8.31.

reactant | 6-methyl-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | CC=1C=C2C=3CCCC(C3NC2=CC1)N[C@H](C)C1=CC=CC=C1 | C21H24N2
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
product | (1S)-6-Methyl-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.CC=1C=C2C=3CCC[C@@H](C3NC2=CC1)N[C@H](C)C1=CC=CC=C1 | InChI=1S/C21H24N2.ClH/c1-14-11-12-19-18(13-14)17-9-6-10-20(21(17)23-19)22-15(2)16-7-4-3-5-8-16;/h3-5,7-8,11-13,15,20,22-23H,6,9-10H2,1-2H3;1H/t15-,20+;/m1./s1
